US04006143
6-[(4-Amino-3-ethyl-5-pyrimidinyl)methyl]-7-methylthieno-[2,3-c]pyridinium 1,5-naphthalene disulfonate monohydrate
To a mixture of 6-[(4-amino-2-ethyl-5-pyrimidinyl)methyl]-7-methylthieno[2,3-c]pyridinium chloride hydrochloride (7.14 g., 0.02 mole) and 1,5-naphthalenedisulfonic acid disodium salt (7.73 g., 0.021 mole), there is added 75 ml. water. The reaction mixture is heated on a steam bath for two hours and then cooled to room temperature. The precipitate is collected by filtration, washed with some fresh water, then acetone, and finally air dried to give the product as a colorless, analytically pure solid, 11.25 g. (95%).

reactant | 6-[(4-amino-2-ethyl-5-pyrimidinyl)methyl]-7-methylthieno[2,3-c]pyridinium chloride hydrochloride | 0.02 mole, 7.14 g | Cl.[Cl-].NC1=NC(=NC=C1C[N+]=1C(=C2C(=CC1)C=CS2)C)CC
reactant | 1,5-naphthalenedisulfonic acid disodium salt | 0.021 mole, 7.73 g | [Na+].[Na+].C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-]
solvent | water | O | H2O
product | 6-[(4-Amino-3-ethyl-5-pyrimidinyl)methyl]-7-methylthieno-[2,3-c]pyridinium 1,5-naphthalene disulfonate monohydrate | O.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-].NC=1N(CN=CC1C[N+]=1C(=C2C(=CC1)C=CS2)C)CC.NC=2N(CN=CC2C[N+]=2C(=C1C(=CC2)C=CS1)C)CC | InChI=1S/2C15H19N4S.C10H8O6S2.H2O/c2*1-3-18-10-17-8-13(15(18)16)9-19-6-4-12-5-7-20-14(12)11(19)2;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16;/h2*4-8H,3,9-10,16H2,1-2H3;1-6H,(H,11,12,13)(H,14,15,16);1H2/q2*+1;;/p-2
